US04230707
A mixture of 2-amino-5-butyl-3-thiophenecarboxylic acid, methyl ester, 21.33 g (0.1 mol) and 6-chloro-3-pyridinecarboxylic acid (Aldrich Chemical Company), 15.76 g (0.1 mol) is heated in a wax bath at 178°-180° C. for one hundred ninety minutes. The mixture is cooled, extracted with hot chloroform and the residue is dissolved in 300 ml of hot glacial acetic acid filtered and 600 ml of hot water added and the mixture stirred on a steam bath for forty minutes and filtered to give 1.23 g of 2-butyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid; mp 250°-252° C. after recrystallization from pyridine.

reactant | 2-amino-5-butyl-3-thiophenecarboxylic acid, methyl ester | NC=1SC(=CC1C(=O)OC)CCCC | C10H15NO2S
reactant | 6-chloro-3-pyridinecarboxylic acid | ClC1=CC=C(C=N1)C(=O)O | C6H4ClNO2
product | 2-butyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid | 1.23 g | C(CCC)C1=CC2=C(N=C3N(C2=O)C=C(C=C3)C(=O)O)S1 | C15H14N2O3S
